US07465726B2
To a pre-dried flask were added 5-nitro-3-oxo-2,3-dihydroindazole-1-carboxylic acid tert-butyl ester (0.65 g, 2.33 mmol), triphenylphosphine (0.92 g, 3.50 mmol), methanol (115 μL, 2.80 mmol) and anhydrous THF (10 mL). The flask was evacuated and purged with N2 then cooled to 0° C. and diisopropylazodicarboxylate (690 μL, 3.50 mmol) added dropwise over 5 min. The mixture was stirred at rt overnight then diluted with EtOAc and partitioned over water. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated. Purification by column chromatography on silica gel (Jones, 50 g) loading and eluting in DCM revealed the title compound as a white powder. 1H NMR (400 MHz, CDCl3): δ=1.68 (s, 9H), 4.21 (s, 3H), 8.10 (d, J=8.8 Hz, 1H), 8.39 (dd, J=9.2 Hz, 2.4 Hz, 1H), 8.61 (d, J=2.0 Hz, 1H). MS (ES+): m/z 294.3 (20) [MH+]. The N-alkylation product methyl-5-nitro-3-oxo-2,3-dihydroindazole-1-carboxylic acid tert-butyl ester was also isolated. 1H NMR (400 MHz, CDCl3): δ=1.68 (s, 9H), 3.69 (s, 3H), 8.02 (d, J=9.2 Hz, 1H), 8.48 (dd, J=9.2, 2.4 Hz, 1H), 8.77 (d, J=2.0 Hz, 1H).

reactant | 5-nitro-3-oxo-2,3-dihydroindazole-1-carboxylic acid tert-butyl ester | 2.33 mmol, 0.65 g | C(C)(C)(C)OC(=O)N1NC(C2=CC(=CC=C12)[N+](=O)[O-])=O | C12H13N3O5
reactant | triphenylphosphine | 3.50 mmol, 0.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 2.80 mmol, 115 μL | CO | CH4O
reactant | diisopropylazodicarboxylate | 3.50 mmol, 690 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl-5-nitro-3-oxo-2,3-dihydroindazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N(C(C2=CC(=CC=C12)[N+](=O)[O-])=O)C | C13H15N3O5
